US09422331B2
To a rt suspension of (2-chloro-3-methylquinolin-4-yl)methanol (61 mg, 294 μmol) in CH2Cl2 (2.94 ml) was added triethylamine (81.9 μl, 588 μmol), followed by methanesulfonyl chloride (27.3 μl, 353 μmol), dropwise. The reaction was stirred at rt for 1.5 h, then diluted with CH2Cl2, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. This material was mixed with tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (100 mg, 201 μmol), cesium carbonate (85.3 mg, 262 μmol), and sodium iodide (39.2 mg, 262 μmol) in DMF (503 μl). The reaction was stirred at rt for 16 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-1-((2-chloro-3-methylquinolin-4-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (62.6 mg, 45%) as a white solid. MS m/z 708 (MNa)+.

reactant | (2-chloro-3-methylquinolin-4-yl)methanol | 294 μmol, 61 mg | ClC1=NC2=CC=CC=C2C(=C1C)CO | C11H10ClNO
reactant | triethylamine | 588 μmol, 81.9 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 353 μmol, 27.3 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 201 μmol, 100 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)=O)C | C22H32N4O7S
reactant | cesium carbonate | 262 μmol, 85.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 262 μmol, 39.2 mg | [I-].[Na+]
solvent | CH2Cl2 | 2.94 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 503 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-1-((2-chloro-3-methylquinolin-4-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 62.6 mg, 45% | ClC1=NC2=CC=CC=C2C(=C1C)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2 | C33H40ClN5O7S
